US07049318B2
2-Bromo-6-bromomethyl-benzoic acid methyl ester:
2-Bromo-6-methyl-benzoic acid methyl ester (21.8 mmol), and N-bromosuccinimide (21.8 mmol), benzoyl peroxide (1.1 mmol) were combined in 50 mL carbontetrachloride and heated to 80° C. overnight. The resulting precipitate was filtered off, and filtrate concentrated to an oil.

reactant | 2-Bromo-6-methyl-benzoic acid methyl ester | 21.8 mmol | COC(C1=C(C=CC=C1C)Br)=O | C9H9BrO2
reactant | N-bromosuccinimide | 21.8 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.1 mmol | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbontetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-6-bromomethyl-benzoic acid methyl ester | COC(C1=C(C=CC=C1CBr)Br)=O | C9H8Br2O2
